US06362177B1
Piperidine (0.048 mmol), diisopropylcarbodiimide (0.45 mmol) in DMF (0.15 mL), 1-hydroxybenzotriazole hydrate (0.45 mmol) in DMF (0.15 mL) were added to a solution of 1-(4-carboxybenzyl)-4-[{N-(3-(trifluoromethyl)benzoyl)glycyl}aminomethyl]piperidine (0.040 mmol) in DMF (1.0 mL). The reaction mixture was stirred at room temperature for 17 h, loaded onto Varian™ SCX column, and washed with CHCl3/CH3OH 1:1 (5 mL) and CH3OH (5 mL) Product was eluted off using 2 N NH3 in CH3OH (5 mL) and concentrated to afford 1-{(4-(piperidinocarbonyl)benzyl}-4-[{N-(3-(trifluoromethyl)benzoyl)glycyl}aminomethyl]piperidine (Compound No. 1572) (14.3 mg, 66%): The purity was determined by RPLC/MS (99%); ESI/MS m/e 545 (M++H, C29H35F3N4O3).

reactant | Piperidine | 0.048 mmol | N1CCCCC1 | C5H11N
reactant | diisopropylcarbodiimide | 0.45 mmol | C(C)(C)N=C=NC(C)C | C7H14N2
reactant | 1-hydroxybenzotriazole hydrate | 0.45 mmol | O.ON1N=NC2=C1C=CC=C2
reactant | 1-(4-carboxybenzyl)-4-[{N-(3-(trifluoromethyl)benzoyl)glycyl}aminomethyl]piperidine | 0.040 mmol | C(=O)(O)C1=CC=C(CN2CCC(CC2)CNC(CNC(C2=CC(=CC=C2)C(F)(F)F)=O)=O)C=C1 | C24H26F3N3O4
solvent | DMF | 0.15 mL | CN(C)C=O | C3H7NO
solvent | DMF | 0.15 mL | CN(C)C=O | C3H7NO
solvent | DMF | 1.0 mL | CN(C)C=O | C3H7NO
product | (4-(piperidinocarbonyl)benzyl}-4-[{N-(3-(trifluoromethyl)benzoyl)glycyl}aminomethyl]piperidine | N1(CCCCC1)C(=O)C1=CC=C(CN2CCC(CC2)CNC(CNC(C2=CC(=CC=C2)C(F)(F)F)=O)=O)C=C1 | C29H35F3N4O3
